US06949542B2
(4-Chloro-2-nitro-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the isocyanate from commercially available 4-chloro-2-nitro-phenylamine [CAS-No. 89-63-4] (5.0 g, 29 mmol) with diphosgene (1.75 mL, 14.5 mmol) in EtOAc (60 mL), followed by treatment with tert-BuOH (30 mL) in CH2Cl2 (60 mL) according to the general procedure A (method a). Obtained as a yellow solid (6.2 g, 76%).

reactant | isocyanate | [N-]=C=O
reactant | 4-chloro-2-nitro-phenylamine | 29 mmol, 5.0 g | ClC1=CC(=C(C=C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | diphosgene | 14.5 mmol, 1.75 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | tert-BuOH | 30 mL | C(C)(C)(C)O | C4H10O
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | (4-Chloro-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C11H13ClN2O4
